US04316904
4,5-Dihydro-5-methyl-8-nitro-4-oxo-N-1H-tetrazol-5-ylpyrano[3,2-b]indole-2-carboxamide
A mixture of 4.7 g (16.4 mmole) 4,5-dihydro-5-methyl-8-nitro-4-oxopyrano[3,2-b]indole-2-carboxylic acid and 3.8 g (23.4 mmole) 1,1'carbonyl-diimidazole in 100 ml DMF was heated at 60° C. for one hour and then cooled to room temperature. In a separate flask, a mixture of 1.8 g (17.5 mmole) 5-aminotetrazole monohydrate and 5.4 g (53.1 mmole) triethylamine were combined in 50 ml DMF. This mixture was cooled in an ice bath while 5.8 g (52.8 mmole) chlorotrimethylsilane was added in one portion. Stirring in ice was continued for one hour, followed by an additional two hours with the ice bath removed. The triethylamine mixture was then added to the original carboxylic acid mixture, and the new mixture was heated on a steam bath for one hour. The mixture was cooled, and the precipitated triethylamine hydrochloride was filtered and discarded. The filtrate was added to 500 g ice/water, the mixture was filtered by gravity, and the filtrate was acidified with 4 N hydrochloric acid. The precipitated crude product was filtered, washed with water and recrystallized twice from DMF-water to yield yellow solid of mp 295° C. dec.

reactant | 4,5-dihydro-5-methyl-8-nitro-4-oxopyrano[3,2-b]indole-2-carboxylic acid | 16.4 mmole, 4.7 g | CN1C2=C(C=3C=C(C=CC13)[N+](=O)[O-])OC(=CC2=O)C(=O)O | C13H8N2O6
reactant | 1,1'carbonyl-diimidazole | 23.4 mmole, 3.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole monohydrate | 17.5 mmole, 1.8 g | O.NC1=NN=NN1
reactant | triethylamine | 53.1 mmole, 5.4 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 52.8 mmole, 5.8 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4,5-Dihydro-5-methyl-8-nitro-4-oxo-N-1H-tetrazol-5-ylpyrano[3,2-b]indole-2-carboxamide | CN1C2=C(C=3C=C(C=CC13)[N+](=O)[O-])OC(=CC2=O)C(=O)NC2=NN=NN2 | C14H9N7O5
